US09416101B2
4-(chlorosulfonyl)benzoic acid (500 mg, 2.27 mmol) was treated with m-toluidine (729 mg, 6.8 mmol) using method A to give 4-(N-m-tolylsulfamoyl)benzoic acid as an off white solid. Yield: 463 mg (70%). 1H-NMR: 8.10 (d, J=8.5 Hz, 2H), 7.64 (d, J=8.5 Hz, 2H), 7.22 (t, J=8.0 Hz, 1H), 7.12 (d, J=8.0 Hz, 1H), 6.95 (s, 1H), 6.85 (d, J=8.0 Hz, 1H), 3.14 (s, 3H), 2.26 (s, 3H).

reactant | 4-(chlorosulfonyl)benzoic acid | 2.27 mmol, 500 mg | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | m-toluidine | 6.8 mmol, 729 mg | NC1=CC(=CC=C1)C | C7H9N
product | 4-(N-m-tolylsulfamoyl)benzoic acid | C1(=CC(=CC=C1)NS(=O)(=O)C1=CC=C(C(=O)O)C=C1)C | C14H13NO4S
